US05354794
6-[4-(Benzenesulfinyl)phenyl]-2,4-bis-[2-hydroxy-4-(2-hydroxy-3-nonyloxypropoxy)phenyl]-s-triazine
Following the general procedure of Example 7, 1.55 g (1.76 mmol) of 2,4-bis-[2-hydroxy-4-(2-hydroxy-3-nonyloxypropoxy)phenyl]-6-[4-(phenylthio)phenyl]-s-triazine are dissolved in 30 mL of chloroform. To the stirred solution at room temperature are added 0.606 g (1.76 mmol) of m-chloroperoxybenzoic acid (50-60%) all at once. After several minutes, the chloroform is removed under reduced pressure and the residue is redissolved in ethyl acetate. The solution is then washed five times with saturated sodium bicarbonate solution, once with water and once with brine and finally dried over anhydrous magnesium sulfate. The solvent is removed to give a yellow oil which is subjected to medium pressure liquid chromatography with 1:3 heptane:ethyl acetate. The title compound is isolated as a yellow glassy solid in a yield of 0.43 g (27%).

reactant | 2,4-bis-[2-hydroxy-4-(2-hydroxy-3-nonyloxypropoxy)phenyl]-6-[4-(phenylthio)phenyl]-s-triazine | 1.76 mmol, 1.55 g | OC1=C(C=CC(=C1)OCC(COCCCCCCCCC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCC(COCCCCCCCCC)O)O)C1=CC=C(C=C1)SC1=CC=CC=C1 | C51H67N3O8S
reactant | m-chloroperoxybenzoic acid | 1.76 mmol, 0.606 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | heptane | CCCCCCC | C7H16
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-[4-(Benzenesulfinyl)phenyl]-2,4-bis-[2-hydroxy-4-(2-hydroxy-3-nonyloxypropoxy)phenyl]-s-triazine | C1(=CC=CC=C1)S(=O)C1=CC=C(C=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCC(COCCCCCCCCC)O)O)C1=C(C=C(C=C1)OCC(COCCCCCCCCC)O)O | C51H67N3O9S
